US05118681
To a stirred solution of 0.78 g (0.0034 mol) of 1-(1-methylpyrrol-2-yl)-3-phenyl-1,3-propanedione in 5 mL of N,N-dimethylformamide under nitrogen was added 3.4 mL (0.0034 mol) of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran. After 10 min a solution of 0.73 g (0.0034 mol) of 2-n-octyl-4-isothiazolin-3-one in 5 mL of N,N-dimethylformamide was added. After 12 h another 3.4 mL of the 1M tetrabutylammonium fluoride solution was added. After 12 h the reaction mixture was diluted with 10% aqueous hydrochloric acid and extracted three times with ethyl acetate. The combined organic layers were washed several times with water, once with brine, and dried over magnesium sulfate. Removal of solvents and recrystallization of the crude product from ethyl acetate/hexane gave 0.28 g (19% yield) of N-n-Octyl-cis-3-{[1-phenyl-3-(1-methylpyrrol-2-yl)-1,3-propanedionyl]thio}acrylamide as a white solid, m.p. 131°-132° C. See Table 1.

reactant | 1-(1-methylpyrrol-2-yl)-3-phenyl-1,3-propanedione | 0.0034 mol, 0.78 g | CN1C(=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C14H13NO2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-n-octyl-4-isothiazolin-3-one | 0.0034 mol, 0.73 g | C(CCCCCCC)N1SC=CC1=O | C11H19NOS
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
product | N-n-Octyl-cis-3-{[1-phenyl-3-(1-methylpyrrol-2-yl)-1,3-propanedionyl]thio}acrylamide | 0.28 g, 19% yield | C(CCCCCCC)NC(\C=C/SC(C(=O)C1=CC=CC=C1)C(=O)C=1N(C=CC1)C)=O | C25H32N2O3S
